Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sudafed / Celebrex
 
Attending: ___.
 
Chief Complaint:
endometrial cancer
 
Major Surgical or Invasive Procedure:
ROBOTIC ASSISTED TOTAL LAPAROSCOPIC HYSTERECTOMY, BILATERAL 
SALPINGO-OOPHORECTOMY, BILATERAL SENTINEL LYMPH NODE DISSECTION, 
CYSTOSCOPY

 
History of Present Illness:
Dear Dr. ___:

Thank you very much for your referral of ___ to our
gynecologic oncology practice at ___.  As you know she is a
lovely ___ gravida 3 para 3 with recent onset of
postmenopausal bleeding.  Bleeding began on ___ when she
had heavy bleeding into the toilet, she then presented to the
___ ED for evaluation.  Ultrasound was obtained and
a review of these images by you revealed an 8 x 5 x 7 cm uterus
with no adnexal masses.  She went home on a 10-day course of 
oral
Provera.  On ___ she presented to you for further
evaluation of her postmenopausal bleeding.  An endometrial 
biopsy
along with Pap and HPV were collected.  Final pathology returned
showing a high-grade endometrial adenocarcinoma and on re-review
at ___ confirmed an endometrial adenocarcinoma grade type, 
FIGO
grade 3.  Given the high-grade nature of this biopsy a chest
abdomen pelvic CT was obtained on ___.  Findings were
notable for a significantly distended endometrial cavity with an
enlarged possibly solid ovarian mass but no other evidence of
adenopathy or metastases to the chest, abdomen or pelvis.

Today, patient reports she continues to have light vaginal
bleeding.  She also continues to take Provera daily.  She has 
had
no further heavy episodes of bleeding.  Otherwise, she denies 
any
significant abdominal pain or discomfort.  Denies significant
weight loss or gain.  She reports chronic issues with urinary
frequency and incontinence and occasional genital itching.  She
also endorses frequent issues with loose stools and bloody stool
from her long-standing hemorrhoids.  

In addition to the symptoms listed above, a complete 10 point
review of systems is notable for the following: Heartburn,
chronic cough, alopecia, hearing loss, sore through and finally
walks with cane and reports she does not often exercise and
states when she is walking longer distances she always has
shortness of breath.  The remainder of a 10 point review of
systems is entirely negative. 
 
Past Medical History:
Past medical history:
1.  Diverticulosis, admission for diverticulitis ___ yrs ago
2.  Arthritis
3.  GERD
4.  Irritable bowel syndrome
5.  Hyperlipidemia
6.  Ischemic heart disease per the records (inf ischemia by ETT
___
7.  Subclinical hyperthyroidism
8.  Obesity
9.  Osteoporosis
10.  Meningioma diagnosed on head imaging and stable in ___

Past surgical history:
1. Open cholecystectomy and appendectomy at age ___ at ___
2.  Left hip replacement at age ___ at the ___
3.  "bladder lift" ~ ___ (vaginally per patient)

Past obstetric history: G3P3
- SVDx3

Past gynecologic history: Menarche at age ___.  Menopause at age
___.  Previously periods were heavy and lasted 7 days.  She is 
not
sexually active.  Denies history of abnormal Pap smears.  Last
Pap performed on ___ revealed atypical glandular cells
and was negative for high risk HPV.

Health maintenance:
- Last colonoscopy approximately ___ years ago
- Last mammogram approximately ___ years ago
- Last bone density approximately ___ years ago

Medications: (All per Atrius records, patient uncertain)
-Provera 10 mg daily
-Atenolol 25 mg daily
-Vitamin D
-Famotidine 20 mg twice daily
-Atorvastatin 10 mg daily
-Tramadol 50 mg twice daily as needed
-Alprazolam 0.25 mg prior to procedures

Allergies: Sudafed causes itching

 
Social History:
___
Family History:
Family history: No known history of breast, ovarian or uterine
cancers.  Patient with a brother diagnosed with colon cancer at
age ___.  Father had leukemia and another brother had throat
cancer.  Mom with diabetes.

 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
Vital Signs sheet entries for ___: 
BP: 174/66. Weight: 204.9 (With Clothes; With Shoes). Height: 64
(Patient Reported; Estimated). BMI: 35.2.

CONSTITUTIONAL: Well appearing, NAD
NEURO: A&Ox3, walks with cane deliberately
PSYCH: Normal affect
HEENT: NCAT, EOMI, Sclera anicteric, Neck supple, no masses
LYMPH NODES: No supraclavicular, cervical or inguinal 
adenopathy.
PULM: CTAB, no wheeze, crackles
CV: RRR, normal S1 and S2
GI: Soft, ND, NT, obese. No hepatosplenomegaly, no masses
palpable
GU: No CVA tenderness, NEFG, normal urethral meatus. Normal
vaginal vault with small amount of old blood, no discharge,
cervix without lesions. Bimanual: Smooth vaginal walls, smooth
cervix without lesions. slightly enlarged, mobile, anteverted
uterus. No adnexal masses or tenderness appreciated.
Rectovaginal: deferred.
MSK: Extremities WWP. ___ with trace edema, nontender,
bilaterally.

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================

On day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous

 
Pertinent Results:
==========================================
RELEVANT LABS:
==========================================
___ 07:20AM BLOOD WBC-4.6 RBC-4.29 Hgb-12.1 Hct-37.9 MCV-88 
MCH-28.2 MCHC-31.9* RDW-13.1 RDWSD-42.0 Plt ___
___ 02:00PM BLOOD WBC-9.9 RBC-4.32 Hgb-12.4 Hct-38.9 MCV-90 
MCH-28.7 MCHC-31.9* RDW-13.0 RDWSD-42.8 Plt ___
___ 02:00PM BLOOD Neuts-89.8* Lymphs-7.1* Monos-2.6* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.91* AbsLymp-0.70* 
AbsMono-0.26 AbsEos-0.00* AbsBaso-0.02

___ 02:00PM BLOOD Glucose-160* UreaN-15 Creat-0.7 Na-141 
K-4.2 Cl-106 HCO3-24 AnGap-11
___ 02:00PM BLOOD Calcium-8.7 Phos-4.2 Mg-1.8

 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing robotic-assisted total laparoscopic 
hysterectomy, bilateral salpingo-oophorectomy, bilateral 
sentinel lymph node dissection, and cystoscopy for endometrial 
cancer. Please see the operative report for full details.  

Her post-operative course is detailed as follows. 

*) Post-operative
Immediately postoperatively, her pain was controlled with PO 
tramadol/Tylenol/ibuprofen with IV morphine for breakthrough per 
the ___ protocol. Her diet was advanced without difficulty and 
her pain remained well-controlled on PO pain medications only. 
On post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. 

*) H/o CAD
She restarted her home regimen of atenolol and atorvastatin on 
post-operative day #1.

On post-operative day #1 she was discharged home in stable 
condition with outpatient follow-up scheduled.

 
Medications on Admission:
-Provera 10 mg daily  
 -Atenolol 25 mg daily  
 -Vitamin D  
 -Famotidine 20 mg twice daily  
 -Atorvastatin 10 mg daily  
 -Tramadol 50 mg twice daily as needed  
 -Alprazolam 0.25 mg prior to procedures  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not take more than 4000 mg per day. 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose bowel movements. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
Take with food. 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*35 Tablet Refills:*0 
5.  Atenolol 25 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. 

Please follow these instructions: 

Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___